### PR TITLE
[Merged by Bors] - feat: port Logic.Relation

### PR DESCRIPTION
**Pull request by kbuzzard**
mathlib3 sha: 5ca6e9d2bb25feeebdefe9bd9de163897bdecd05

Relatively straightforward.

Depends on ~~#559 (`EqvGen`)~~ and ~~#561 (`mk-iffs` attribute)~~

### CODE REVIEW

**Comment by kbuzzard** [comment]
Remark: Lean 3 `apply ih` sometimes didn't work here, I had to give the motive explicitly. See lines 268 and 358 (or search for `refine @`)

File: Mathlib/Logic/Relation.lean [hunk 1]
```diff
@@ -0,0 +1,641 @@
...
+
+This file defines the reflexive, transitive, and reflexive transitive closures of relations.
+It also proves some basic results on definitions such as `EqvGen`.
+
+Note that this is about unbundled relations, that is terms of types of the form `α → β → Prop`. For
+the bundled version, see `rel`.
+
+## Definitions
+
+* `relation.ReflGen`: Reflexive closure. `ReflGen r` relates everything `r` related, plus for all
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:24]:
```suggestion
* `Relation.ReflGen`: Reflexive closure. `ReflGen r` relates everything `r` related, plus for all
```
and below.

File: Mathlib/Logic/Relation.lean [hunk 2]
```diff
@@ -0,0 +1,641 @@
...
+  the reflexive closure of the transitive closure, or the transitive closure of the reflexive
+  closure. In terms of rewriting systems, this means that `a` can be rewritten to `b` in a number of
+  rewrites.
+* `relation.Comp`:  Relation composition. We provide notation `∘r`. For `r : α → β → Prop` and
+  `s : β → γ → Prop`, `r ∘r s`relates `a : α` and `c : γ` iff there exists `b : β` that's related to
+  both.
+* `relation.map`: Image of a relation under a pair of maps. For `r : α → β → Prop`, `f : α → γ`,
+  `g : β → δ`, `map r f g` is the relation `γ → δ → Prop` relating `f a` and `g b` for all `a`, `b`
+  related by `r`.
+* `relation.join`: Join of a relation. For `r : α → α → Prop`, `join r a b ↔ ∃ c, r a c ∧ r b c`. In
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:40]:
```suggestion
* `Relation.Join`: Join of a relation. For `r : α → α → Prop`, `Join r a b ↔ ∃ c, r a c ∧ r b c`. In
```

File: Mathlib/Logic/Relation.lean [hunk 3]
```diff
@@ -0,0 +1,641 @@
...
+  `ReflTransGen r a b ↔ (∃ x₀ ... xₙ, r a x₀ ∧ r x₀ x₁ ∧ ... ∧ r xₙ b) ∨ a = b`. It is the same as
+  the reflexive closure of the transitive closure, or the transitive closure of the reflexive
+  closure. In terms of rewriting systems, this means that `a` can be rewritten to `b` in a number of
+  rewrites.
+* `relation.Comp`:  Relation composition. We provide notation `∘r`. For `r : α → β → Prop` and
+  `s : β → γ → Prop`, `r ∘r s`relates `a : α` and `c : γ` iff there exists `b : β` that's related to
+  both.
+* `relation.map`: Image of a relation under a pair of maps. For `r : α → β → Prop`, `f : α → γ`,
+  `g : β → δ`, `map r f g` is the relation `γ → δ → Prop` relating `f a` and `g b` for all `a`, `b`
+  related by `r`.
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:39]:
```suggestion
* `Relation.Map`: Image of a relation under a pair of maps. For `r : α → β → Prop`, `f : α → γ`,
  `g : β → δ`, `Map r f g` is the relation `γ → δ → Prop` relating `f a` and `g b` for all `a`, `b`
  related by `r`.
```

File: Mathlib/Logic/Relation.lean [hunk 4]
```diff
@@ -0,0 +1,641 @@
...
+variable {r : α → α → Prop}
+
+theorem IsRefl.reflexive [IsRefl α r] : Reflexive r := fun x => IsRefl.refl x
+
+/-- To show a reflexive relation `r : α → α → Prop` holds over `x y : α`,
+it suffices to show it holds when `x ≠ y`. -/
+theorem Reflexive.rel_of_ne_imp (h : Reflexive r) {x y : α} (hr : x ≠ y → r x y) : r x y := by
+  by_cases hxy:x = y
+  · exact hxy ▸ h x
+
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:60]:
```suggestion
```

File: Mathlib/Logic/Relation.lean [hunk 5]
```diff
@@ -0,0 +1,641 @@
...
+variable {r : α → β → Prop} {p : β → γ → Prop} {q : γ → δ → Prop}
+
+/-- The composition of two relations, yielding a new relation.  The result
+relates a term of `α` and a term of `γ` if there is an intermediate
+term of `β` related to both.
+-/
+def Comp (r : α → β → Prop) (p : β → γ → Prop) (a : α) (c : γ) : Prop :=
+  ∃ b, r a b ∧ p b c
+
+-- mathport name: «expr ∘r »
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:120]:
```suggestion
```

File: Mathlib/Logic/Relation.lean [hunk 6]
```diff
@@ -0,0 +1,641 @@
...
+
+attribute [refl] ReflTransGen.refl
+
+/-- `ReflGen r`: reflexive closure of `r` -/
+@[mk_iff Relation.refl_gen_iff]
+inductive ReflGen (r : α → α → Prop) (a : α) : α → Prop
+  | refl : ReflGen r a a
+  | single {b} : r a b → ReflGen r a b
+
+/-- `trans_gen r`: transitive closure of `r` -/
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:211]:
```suggestion
/-- `TransGen r`: transitive closure of `r` -/
```

File: Mathlib/Logic/Relation.lean [hunk 7]
```diff
@@ -0,0 +1,641 @@
...
+@[mk_iff Relation.trans_gen_iff]
+inductive TransGen (r : α → α → Prop) (a : α) : α → Prop
+  | single {b} : r a b → TransGen r a b
+  | tail {b c} : TransGen r a b → r b c → TransGen r a c
+
+attribute [refl] ReflGen.refl
+
+namespace ReflGen
+
+theorem to_refl_trans_gen : ∀ {a b}, ReflGen r a b → ReflTransGen r a b
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:221]:
```suggestion
theorem to_reflTransGen : ∀ {a b}, ReflGen r a b → ReflTransGen r a b
```
and then #align.

File: Mathlib/Logic/Relation.lean [hunk 8]
```diff
@@ -0,0 +1,641 @@
...
+theorem head (hab : r a b) (hbc : ReflTransGen r b c) : ReflTransGen r a c := by
+  induction hbc
+  case refl => exact refl.tail hab
+  case tail c d _ hcd hac => exact hac.tail hcd
+
+theorem symmetric (h : Symmetric r) : Symmetric (ReflTransGen r) := by
+  intro x y h
+  induction' h with z w a b c
+  · rfl
+
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:254]:
```suggestion
```

File: Mathlib/Logic/Relation.lean [hunk 9]
```diff
@@ -0,0 +1,641 @@
...
+@[elab_as_elim]
+theorem head_induction_on {P : ∀ a : α, ReflTransGen r a b → Prop} {a : α} (h : ReflTransGen r a b)
+    (refl : P b refl)
+    (head : ∀ {a c} (h' : r a c) (h : ReflTransGen r c b), P c h → P a (h.head h')) : P a h := by
+  induction h
+  case refl => exact refl
+  case tail b c _ hbc ih =>
+  -- remark: Lean 3 figured out the motive and `apply ih` worked
+  refine @ih (λ {a : α} (hab : ReflTransGen r a b) => P a (ReflTransGen.tail hab hbc)) ?_ ?_;
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:269]: :-(

This makes me sad.

File: Mathlib/Logic/Relation.lean [hunk 10]
```diff
@@ -0,0 +1,641 @@
...
+
+    · exact Or.inr (IH.tail bd)
+
+
+
+end ReflTransGen
+
+namespace TransGen
+
+theorem to_refl {a b} (h : TransGen r a b) : ReflTransGen r a b := by
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:320]: Perhaps should have been called `to_reflTransGen` for consistency with the version on `ReflGen`?

Doesn't really need to be fixed, but easily can be with an #align here.

File: Mathlib/Logic/Relation.lean [hunk 11]
```diff
@@ -0,0 +1,641 @@
...
+
+end TransGen
+
+theorem _root_.Acc.TransGen (h : Acc r a) : Acc (TransGen r) a := by
+  induction' h with x _ H
+  refine' Acc.intro x fun y hy => _
+  cases' hy with _ hyx z _ hyz hzx
+  exacts[H y hyx, (H z hzx).inv hyz]
+
+theorem _root_.acc_trans_gen_iff : Acc (TransGen r) a ↔ Acc r a :=
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:404]:
```suggestion
theorem _root_.acc_transGen_iff : Acc (TransGen r) a ↔ Acc r a :=
```
and #align.

Comment (semorrison) [reply Mathlib/Logic/Relation.lean:404]: Many of these below, as well.

File: Mathlib/Logic/Relation.lean [hunk 12]
```diff
@@ -0,0 +1,641 @@
...
+
+end Join
+
+end Relation
+
+section EqvGen
+
+variable {r : α → α → Prop} {a b : α}
+
+theorem Equivalence.eqv_gen_iff (h : Equivalence r) : EqvGen r a b ↔ r a b :=
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:619]:
```suggestion
theorem Equivalence.eqvGen_iff (h : Equivalence r) : EqvGen r a b ↔ r a b :=
```
and #align, and also below.

File: Mathlib/Logic/Relation.lean (hunk 9 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean:267]: Yeah I'll try and minimise

File: Mathlib/Logic/Relation.lean (hunk 10 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean]: Fixed!

File: Mathlib/Logic/Relation.lean (hunk 11 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean]: I still need to #align these.

**Comment by semorrison** [comment]
It looks like you did many of the renames without simultaneously writing the `#align`s? You do you, but I'm confused how you're going to write the #align's later. It seems prone to error!

**Comment by kbuzzard** [comment]
Yeah, I think Yakov was also talking about this. What I did with the bool files was just got everything working and then diffed the file with the mathbin port and did the aligns after :-)

File: Mathlib/Logic/Relation.lean [hunk 13]
```diff
@@ -0,0 +1,638 @@
...
+  exacts[H y hyx, (H z hzx).inv hyz]
+
+theorem _root_.acc_transGen_iff : Acc (TransGen r) a ↔ Acc r a :=
+  ⟨Subrelation.accessible TransGen.single, Acc.TransGen⟩
+#align acc_trans_gen_iff acc_transGen_iff
+
+theorem _root_.well_founded.transGen (h : WellFounded r) : WellFounded (TransGen r) :=
+  ⟨fun a => (h.apply a).TransGen⟩
+
+#align well_founded.trans_gen well_founded.transGen
```
Comment (mcdoll) [inline Mathlib/Logic/Relation.lean:408]:
```suggestion
theorem _root_.WellFounded.transGen (h : WellFounded r) : WellFounded (TransGen r) :=
  ⟨fun a => (h.apply a).TransGen⟩
#align well_founded.trans_gen WellFounded.transGen
```

File: Mathlib/Logic/Relation.lean [hunk 14]
```diff
@@ -0,0 +1,638 @@
...
+  refine' ⟨fun h => _, fun ⟨b, hab, hbc⟩ => head' hab hbc⟩
+  induction h
+  case single c hac => exact ⟨_, hac, by rfl⟩
+  case tail b c _ hbc IH =>
+  rcases IH with ⟨d, had, hdb⟩
+  exact ⟨_, had, hdb.tail hbc⟩
+
+end TransGen
+
+theorem _root_.Acc.TransGen (h : Acc r a) : Acc (TransGen r) a := by
```
Comment (mcdoll) [inline Mathlib/Logic/Relation.lean:395]:
```suggestion
theorem _root_.Acc.transGen (h : Acc r a) : Acc (TransGen r) a := by
```

File: Mathlib/Logic/Relation.lean (hunk 9 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean]: I reported it as https://github.com/leanprover/lean4/issues/1841

File: Mathlib/Logic/Relation.lean (hunk 11 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean]: OK they're aligned!

File: Mathlib/Logic/Relation.lean (hunk 12 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean]: Done.

File: Mathlib/Logic/Relation.lean (hunk 13 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean]: Thanks! I know you told me this today on Zulip as well, but I've not looked at this PR or indeed at github for the last week because of work commitments.

File: Mathlib/Logic/Relation.lean (hunk 14 above)
Comment (kbuzzard) [reply Mathlib/Logic/Relation.lean:396]: Thanks!

**Comment by kbuzzard** [comment]
I don't know what the tag `needs-mathlib-SHA` means. The last mathlib3 commit which changed logic.relation is `5ca6e9d2bb25feeebdefe9bd9de163897bdecd05` and the changes made in that commit have been ported here. I took this file from a version of mathlib3port from about two weeks ago and have updated mathlib3port since.

File: Mathlib/Logic/Relation.lean [hunk 15]
```diff
@@ -0,0 +1,642 @@
...
+  (cases_tail_iff r a b).1
+
+@[elab_as_elim]
+theorem head_induction_on {P : ∀ a : α, ReflTransGen r a b → Prop} {a : α} (h : ReflTransGen r a b)
+    (refl : P b refl)
+    (head : ∀ {a c} (h' : r a c) (h : ReflTransGen r c b), P c h → P a (h.head h')) : P a h := by
+  induction h
+  case refl => exact refl
+  case tail b c _ hbc ih =>
+  -- remark: Lean 3 figured out the motive and `apply ih` worked
```
Comment (semorrison) [inline Mathlib/Logic/Relation.lean:267]:
```suggestion
  -- Porting note: Lean 3 figured out the motive and `apply ih` worked
```

**Comment by semorrison** [comment]
bors merge

**Comment by digama0** [comment]
> This is now compiling and ready for review (thanks for the comments even when the PR wasn't ready!) I don't know what the tag `needs-mathlib-SHA` means. The last mathlib3 commit which changed logic.relation is `5ca6e9d2bb25feeebdefe9bd9de163897bdecd05` and the changes made in that commit have been ported here. I took this file from a version of mathlib3port from about two weeks ago and have updated mathlib3port since.

@kbuzzard Just to directly answer this question: the mathport SHA you should provide is the latest version of mathlib for which you have incorporated changes from the file that is considered to be ported by this PR (namely `logic.relation` in this case). So if you started with the version from two weeks ago, then during the PR you incorporated changes to the mathlib3 file and consider it up to date with today's `logic.relation`, then you would use today's mathlib SHA in the PR comment. It's also okay to not update your PR with changes in the meantime and just report a SHA from two weeks ago. 

The important part is that you shouldn't use mathlib from two weeks ago and report today's mathlib SHA if there were important changes in those two weeks, since then those changes will fall through the cracks when we go to do upgrades later.
